US08183272B2
(1a) 2-Bromo-N,3-dimethoxy-N-methylbenzamide
2-Bromo-3 methoxy benzoic acid (14.2 g, 61.5 mmol) was dissolved in acetonitrile (250 mL), added with 4-methylmorpholine (13.5 mL, 123 mmol), N-methoxy methanamine hydrochloride (7.19 g, 73.8 mmol), and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride (20.4 g, 73.8 mmol), and stirred for 17 hours at room temperature. 1 N aqueous hydrochloric acid solution was added to the reaction solution, which was then extracted with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 85:15 to 25:75, V/V) to give the title compound as a colorless oily substance (16.8 g, quantitative).

reactant | 2-Bromo-3 methoxy benzoic acid | 61.5 mmol, 14.2 g | BrC1=C(C(=O)O)C=CC=C1OC | C8H7BrO3
reactant | 4-methylmorpholine | 123 mmol, 13.5 mL | CN1CCOCC1 | C5H11NO
reactant | N-methoxy methanamine hydrochloride | 73.8 mmol, 7.19 g | Cl.CONC
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride | 73.8 mmol, 20.4 g | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 2-Bromo-N,3-dimethoxy-N-methylbenzamide | BrC1=C(C(=O)N(C)OC)C=CC=C1OC | C10H12BrNO3
